US05378244
A 14% methanol solution of sodium methoxide was added to 25.0 g (120 mmol) of 2-chloro-3,5-dinitropyridine, and the mixture was stirred for 15 minutes at room temperature. The mixture was added to 200 ml of a saturated aqueous ammonium chloride solution, and extracted with 200 ml of ethyl acetate. Washing with saturated saline, drying over anhydrous sodium sulfate, filtering and distilling under reduced pressure (bath temp. 40°-60° C., 40-20 mmHg) yielded yellow crystals, which were recrystallized from methanol to obtain 19.5 g (91.8 mmol) of 2-methoxy-3,5-dinitropyridine as pale yellow crystals (yield: 80%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-chloro-3,5-dinitropyridine | 120 mmol, 25.0 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | 2-methoxy-3,5-dinitropyridine | 91.8 mmol, 19.5 g, yield: 80% | COC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C6H5N3O5
